US07115611B2
C] [2-(3-Methoxy-propyl)-phenoxy]acetic acid ethyl ester
9.54 g (38.4 mmol) of the above prepared [2-(3-methoxy-prop-1-ynyl)-phenoxy]-acetic acid ethyl ester was hydrogenated at RT in 130 ml of AcOEt over 2.39 g of Pd/C (10%) under 1 atm of H2-pressure. After 2 h at ambient temperature, the reaction mixture was filtrated over Celite and carefully rinsed with AcOEt. Evaporation of the solvent left finally 9.39 g of the title compound as colorless oil.

reactant | [2-(3-methoxy-prop-1-ynyl)-phenoxy]-acetic acid ethyl ester | C(C)OC(COC1=C(C=CC=C1)C#CCOC)=O | C14H16O4
solvent | AcOEt | 130 ml | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 2.39 g | [Pd] | Pd
product | [2-(3-Methoxy-propyl)-phenoxy]acetic acid ethyl ester | C(C)OC(COC1=C(C=CC=C1)CCCOC)=O | C14H20O4
